US05204326
Preparation of Boc-Leu-Gly-OH
2.63 Grams of H-Gly-OH and 3.50 g of sodium hydrogen carbonate were suspended in 50 ml of water, to this supension was added, under ice-cooling condition, 50 ml of dioxane solution containing 10.0 g of Boc-Leu-OSu, and stirred for 30 minutes, then this mixture was further stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, and the residue thus obtained was extracted with ethyl acetate (70 ml). The ethyl acetate layer was washed with 1N-hydrochloric acid, and with a saturated sodium chloride aqueous solution, then was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was recrystalled from ethyl acetate-n-hexane to obtain 6.65 g (yield: 75.7%) of the above-mentioned objective product.

reactant | H-Gly-OH | NCC(=O)O | C2H5NO2
reactant | sodium hydrogen carbonate | 3.50 g | C(O)([O-])=O.[Na+]
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | Boc-Leu-OSu | 10.0 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | Boc-Leu-Gly-OH | 6.65 g, yield: 75.7% | N([C@@H](CC(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C13H24N2O5
